US08039474B2
b) 9-Ethoxycarbonylmethyl-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid
To a stirred solution of 2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid (0.40 g, 1.86 mmol) in dry DMF (4 ml) is added NaH (0.16 g, 4.1 mmol, 60% in mineral oil) in one portion. After gas evolution has ceased, the reaction mixture is kept stirring at rt for 1 h. Then, ethyl bromoacetate (0.21 ml, 1.9 mmol) is added and stirring is continued overnight. Saturated KH2PO4 solution is added and the mixture is extracted with dichloromethane. The organic layers are combined and washed with H2O and brine, dried over Na2SO4, filtered and concentrated. The residue is purified by flash chromatography on silica gel (hexane/EtOAc 3:1) to afford pure title compound as an off-white solid (0.34 mg) in 61% yield. tR (LC-3) 2.05 min; ESI-MS (positive ion): m/z 324.15 [M+Na]+ (calcd 301.13 for C17H19NO4). 1H-NMR (DMSO-d6): 1.13 (t, J=7.0 Hz, 3H); 1.79 (m, 11-1); 2.14 (m, 1H); 2.64 (m, 4H); 2.86 (dd, J=14.3 Hz, 4.8 Hz, 1H); 4.05 (q, J=7.0 Hz, 2H); 4.88 (s, 2H); 6.90 (dd, J=7.6 Hz, 7.0 Hz, 1H); 6.97 (dd, J=7.6 Hz, 7.0 Hz, 1H); 7.23 (d, J=8.1 Hz, 1H); 7.3 (d, J=6.8 Hz, 1H); 12.08 (s br, 1H).

reactant | 2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid | 1.86 mmol, 0.40 g | C1CC(CC=2C3=CC=CC=C3NC12)C(=O)O | C13H13NO2
reactant | NaH | 4.1 mmol, 0.16 g | [H-].[Na+]
reactant | ethyl bromoacetate | 1.9 mmol, 0.21 ml | BrCC(=O)OCC | C4H7BrO2
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 9-Ethoxycarbonylmethyl-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid | 0.34 mg, 61% yield | C(C)OC(=O)CN1C2=CC=CC=C2C=2CC(CCC12)C(=O)O | C17H19NO4
